US06455528B1
Synthesis of (S)-N-(1-(4-((4-(4-Fluorophenyl)piperazin-1-yl)methyl)phenyl)ethyl)acetamide
By similar reaction and treatment to that in Example 1(5) using (S)-N-(1-(4-chloromethylphenyl)ethyl)acetamide instead of N-(4-chloromethylphenylmethyl)acetamide and 1-(4-fluorophenyl)piperazine dihydrochloride instead of phenylpiperazine, the title compound was obtained as white crystals, m.p.=114-115° C.

reactant | (S)-N-(1-(4-chloromethylphenyl)ethyl)acetamide | ClCC1=CC=C(C=C1)[C@H](C)NC(C)=O | C11H14ClNO
reactant | 1-(4-fluorophenyl)piperazine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)N1CCNCC1
product | (S)-N-(1-(4-((4-(4-Fluorophenyl)piperazin-1-yl)methyl)phenyl)ethyl)acetamide | FC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)[C@H](C)NC(C)=O | C21H26FN3O
